US06329550B1
Combine diethyl aminomalonate hydrochloride (5.0 g, 23.6 mmol), triethylamine (3.30 mL, 23.6 mmol), and dichloromethane (80 mL). Add di-t-butyl dicarbonate (5.4 g, 24.8 mmol). After 18 hours, extract with an aqueous 5% sulfuric acid solution, a saturated aqueous sodium bicarbonate solution, and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3/2 hexane/ethyl acetate to give diethyl t-butoxycarbonylaminomalonate (87%).

reactant | diethyl aminomalonate hydrochloride | 23.6 mmol, 5.0 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | triethylamine | 23.6 mmol, 3.30 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 80 mL | ClCCl | CH2Cl2
reactant | di-t-butyl dicarbonate | 24.8 mmol, 5.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | diethyl t-butoxycarbonylaminomalonate | 87% | C(C)(C)(C)OC(=O)NC(C(=O)OCC)C(=O)OCC | C12H21NO6
